US06130228
1-(4'Fluorophenyl) amino-2-cyano-3,4-dihydro-naphthalene (Intermediate leading to (27))
4-Fluoro-aniline (Aldrich Chemicals) (1.11 g, 10 mmol) and 2-cyano-3 ,4-dihydro-1 (2H) -naphthalenone (synthesised according to the method of Johnson. W. S. and Shelberg W. E. J. Amer. Chem. Soc., (1945), 67 p.1745.) (91.71 g 10 mmol) were heated together at 150° C. for 1 hour. After cooling, chromatography on silica with chloroform as the eluent followed by Kugelrohr distillation (175° C., 0.2 mmHg) gave the product as pale brown crystals.

reactant | 4-Fluoro-aniline | 10 mmol, 1.11 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-cyano-3 ,4-dihydro-1 (2H) -naphthalenone | C(#N)C1C(C2=CC=CC=C2CC1)=O | C11H9NO
product | 1-(4'Fluorophenyl) amino-2-cyano-3,4-dihydro-naphthalene | FC1=CC=C(C=C1)NC1=C(CCC2=CC=CC=C12)C#N | C17H13FN2
